US04771046
0.646 ml of chloroacetonitrile was added to a solution of 23 mg of metallic sodium in 8 ml of absolute methanol, the mixture was stirred for about 60 minutes at room temperature, 1.70 g of (3R)-3-carbamoyloxypyrrolidine hydrochloride were then added, and the mixture was stirred for a further 3 hours. After completion of the reaction, a small amount of insoluble material was filtered off and the solvent was stripped off from the filtrate. Ether was added to the residue, and the precipitated crystals were collected by filtration and washed with ether, giving 2.20 g of 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylchloride hydrochloride.

reactant | chloroacetonitrile | 0.646 ml | ClCC#N | C2H2ClN
reactant | sodium | 23 mg | [Na] | Na
reactant | (3R)-3-carbamoyloxypyrrolidine hydrochloride | 1.70 g | Cl.C(N)(=O)O[C@H]1CNCC1
solvent | methanol | 8 ml | CO | CH4O
product | 2-[(3R)-3-carbamoyloxypyrrolidin-1-yl]-2-iminoethylchloride hydrochloride | 2.20 g | Cl.C(N)(=O)O[C@H]1CN(CC1)C(CCl)=N | InChI=1S/C7H12ClN3O2.ClH/c8-3-6(9)11-2-1-5(4-11)13-7(10)12;/h5,9H,1-4H2,(H2,10,12);1H/t5-;/m1./s1
